* Z:\mnt\design.r\spice\examples\3883-1.asc
V1 IN 0 12
R1 IN N001 5m
R2 IN N002 100
R3 N001 N003 100
C1 N002 N003 1µ
C2 N002 0 10n
C3 N003 0 10n
C5 N013 0 1µ
C6 N006 0 1µ
C7 N018 0 2200p
R4 N006 N007 10K
R5 N006 N009 10K
R6 N006 N011 5K
R7 N013 N016 20K
R8 N016 0 12.7K
R9 N013 N015 24.9K
R10 N015 0 9.09K
R11 N013 N017 10K
R12 N017 0 23.2K
M1 N001 N005 N010 N010 BSC050N03LS
M2 N010 N012 0 0 BSC011N03LS
C8 N008 N010 .1µ
D1 N004 N008 CMDSH2-3
L1 N010 OUT .56µ
R13 N010 N014 1.4K
C9 N014 OUT .22µ
C10 OUT 0 330µ
C11 OUT 0 100µ x2
Rload OUT 0 90m
V2 N004 0 5
XU1 OUT 0 N003 N002 N018 N014 OUT N011 N009 MP_01 MP_02 MP_03 MP_04 N007 MP_05 MP_06 N016 N015 MP_07 N017 MP_08 N013 MP_09 MP_10 N006 MP_11 MP_12 MP_13 MP_14 MP_15 MP_16 MP_17 N004 0 IN N012 N008 N005 N010 MP_18 0 LTC3883-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
.lib LTC3883-1.sub
.backanno
.end
